US04214097
A mixture of 2.02 g of 1,1-diethoxy-1-(3-methyl-2-buten-1-yloxy)ethane and 20 mg of phenol was heated for 12 hours at 150°-160°, during which time ethanol was evolved. Distillation of the residue gave 1.12 g (72% yield) of ethyl 3,3-dimethyl-4-pentenoate, b.p. 80°-83°/57 mm.

reactant | 1,1-diethoxy-1-(3-methyl-2-buten-1-yloxy)ethane | 2.02 g | C(C)OC(C)(OCC=C(C)C)OCC | C11H22O3
reactant | phenol | 20 mg | C1(=CC=CC=C1)O | C6H6O
reactant | ethanol | C(C)O | C2H6O
product | ethyl 3,3-dimethyl-4-pentenoate | 1.12 g, 72% yield | CC(CC(=O)OCC)(C=C)C | C9H16O2
